US09107916B2
B. 2-[5-[[4-chloro-2-(2-methylpropoxy)phenyl]methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and [4-chloro-2-(2-methylpropoxy)phenyl]methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 1.00 (6H, d, J=6.8 Hz), 2.06-2.12 (1H, m), 3.77 (2H, d, J=6.0 Hz), 5.24 (2H, s), 5.77 (1H, d, J=2.0 Hz), 6.89 (1H, d, J=1.6 Hz), 6.95 (1H, dd, J=2.0 Hz, 8.0 Hz), 7.34 (1H, d, J=8.0 Hz), 7.39 (1H, dd, J=0.8 Hz, 4.8 Hz), 7.57 (1H, d, J=2.0 Hz), 8.03 (1H, s), 8.70 (1H, d, J=4.8 Hz). [M+H] Calc'd for C20H19ClN4O2, 383. Found, 383.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | [4-chloro-2-(2-methylpropoxy)phenyl]methanol | ClC1=CC(=C(C=C1)CO)OCC(C)C | C11H15ClO2
product | 2-[5-[[4-chloro-2-(2-methylpropoxy)phenyl]methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | ClC1=CC(=C(C=C1)COC1=CC=NN1C1=NC=CC(=C1)C#N)OCC(C)C | C20H19ClN4O2
